US07220862B2
7-Ethyl-1H-indazole-5-carbaldehyde
5-Bromo-7-ethyl-1H-indazole (2.0 g, 8.9 mmol) and sodium hydride (226 mg, 1.1 equiv.) were weighed into a flame-dried round-bottom flask containing a magnetic stir bar. Under a nitrogen atmosphere at room temperature, dry tetrahydrofuran (60 mL) was added. The mixture was stirred at room temperature for 15 min. The stirred mixture was cooled to −78° C. and a solution of tert-butyllithium in pentane (1.7 M, 10.5 mL, 2.0 equiv.) was added over several minutes. After 15 min at −78° C., the reaction was gradually warmed to to −50° C., and recooled to −78° C. Dimethylformamide (2.8 mL) was slowly added and the mixture allowed to warm to −50° C. The solution was quickly transferred to a stirred solution of water 300 mL and 1 M potassium hydrogen sulfate (25 mL). The resulting suspension was extracted with diethyl ether, washed with water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography gave 160 mg (10%) as a white solid. 1H-NMR (CD3OD, 500 MHz) δ 1.38 (t, J=7.6, 3H), 2.98 (q, J=7.6, 2H), 7.71 (s, 1H), 8.22 (s, 1H), 8.24 (s, 1H), 9.96 (s, 1H). Mass spec.: 175.08 (MH)+.

reactant | 5-Bromo-7-ethyl-1H-indazole | 8.9 mmol, 2.0 g | BrC=1C=C2C=NNC2=C(C1)CC | C9H9BrN2
reactant | sodium hydride | 226 mg, 1.1 equiv. | [H-].[Na+]
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 1.7 M, 10.5 mL, 2.0 equiv. | CCCCC | C5H12
reactant | potassium hydrogen sulfate | 1 M, 25 mL | S(=O)(=O)(O)[O-].[K+]
solvent | water | 300 mL | O | H2O
solvent | Dimethylformamide | 2.8 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 7-Ethyl-1H-indazole-5-carbaldehyde | C(C)C=1C=C(C=C2C=NNC12)C=O | C10H10N2O
